US06936608B2
To the solution of 3-(2-chloropyrimidin-4-yl)-4-fluorophenylamine from above was added triethylamine (0.48 ml, 3.15 mmol) and palladium on active carbon (100 mg, 10% palladium) and the mixture was reduced under 40 psi hydrogen for 30 minutes. The mixture was filtered and the solvent removed to give 4-fluoro-3-(pyrimidin-4-yl)phenylamine as a yellow solid: MS (ES+) m/z 190 [M+H]+.

reactant | 3-(2-chloropyrimidin-4-yl)-4-fluorophenylamine | ClC1=NC=CC(=N1)C=1C=C(C=CC1F)N | C10H7ClFN3
reactant | triethylamine | 3.15 mmol, 0.48 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
product | 4-fluoro-3-(pyrimidin-4-yl)phenylamine | FC1=C(C=C(C=C1)N)C1=NC=NC=C1 | C10H8FN3
